US07576165B2
5-(8-(3H-1,2,3-triazol-4-ylthio)octylthio)-1H-1,2,3-triazole (Scheme 13)
20 mmole of 5-mercapto-1H-1,2,3-triazole (sodium salt) was dissolved in 20 ml of ethanol in stirring. 10 mmole of 1,8-diiodooctane was added dropwise to the solution of 5-mercapto-1H-1,2,3-triazole (sodium salt), and stirred overnight. After the solvent was evaporated in vacuum, the residual was washed with 50 ml pure H2O for three times, and then with 50 ml hexane for 3 times. At last, the residual was dried in oven at 60° C. for 24 hours. 1.30 g product was obtained as white solid. Yield: 42%. 1H NMR (DMSO): δ (ppm) 7.88 (2H, s), 2.86 (4H, t, JH-H=7.14), 1.50 (4H, m), and 1.20-1.31 (8H, m).

reactant | 5-mercapto-1H-1,2,3-triazole | 20 mmole | SC1=CN=NN1 | C2H3N3S
reactant | 1,8-diiodooctane | 10 mmole | ICCCCCCCCI | C8H16I2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(8-(3H-1,2,3-triazol-4-ylthio)octylthio)-1H-1,2,3-triazole | 1.30 g, Yield: 42% | N1=NNC(=C1)SCCCCCCCCSC1=CN=NN1 | C12H20N6S2
